* sg13g2-ldo -- SG13CMOS5L closed-loop PSRR bench (issue #21).
* Generated from
* sim/ldo-cmos5l-pvt-sweep/testbench/tb_psrr_cmos5l.spice.tmpl by
* sim/ldo-cmos5l-pvt-sweep/run_sweep.sh -- do not edit a generated
* netlist-snapshots/*.spice file directly. Full methodology in
* sim/ldo-cmos5l-pvt-sweep/README.md; this header is a short pointer.
*
* Generated for: corner=mos_fs temp=27C
* PDK: ihp-sg13cmos5l /home/ubuntu/share/pdk (see sim/pdk-cmos5l.json for the pinned release)
* OSDI models: /home/ubuntu/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi (built by sim/tools/build-osdi.sh)
* Design netlist under test (frozen at this repo's git sha in the record):
*   /home/ubuntu/GitHub/sg13g2-ldo/.loom/worktrees/issue-25/design/sg13cmos5l/netlist/ldo_core_cmos5l.spice
*
* Closed-loop bench (no flattening/loop-break needed, unlike
* tb_loopgain_cmos5l.spice.tmpl): ldo_core_cmos5l is instantiated whole.
* Vin carries a 1V AC stimulus (dc still 3.30V); Vref's AC component is
* held at 0 so the only AC excitation into the loop is the supply ripple
* under test. PSRR_dB(f) = -20*log10(|v(vout)/v(vin)|) -- reported as a
* positive rejection number (higher = better), the sign convention
* README.md's "Target specification" table's PSRR row assumes.

.lib "/home/ubuntu/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOShv.lib" mos_fs
.lib "/home/ubuntu/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerRES.lib" res_typ
.lib "/home/ubuntu/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerCAP.lib" cap_typ

.options temp=27 tnom=27

.include "/home/ubuntu/GitHub/sg13g2-ldo/.loom/worktrees/issue-25/design/sg13cmos5l/netlist/ldo_core_cmos5l.spice"

Vin VIN 0 dc 3.30 ac 1
Vref VREF 0 dc 0.90 ac 0
Ibias IBIAS 0 dc 2u
Iload VOUT 0 dc 0.001
Cout VOUT 0 1u

Xtop VIN VOUT 0 VREF IBIAS ldo_core_cmos5l

.control
pre_osdi /home/ubuntu/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /home/ubuntu/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /home/ubuntu/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/mosvar.osdi
pre_osdi /home/ubuntu/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/r3_cmc.osdi
pre_osdi /home/ubuntu/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/cap_cmomi.osdi
pre_osdi /home/ubuntu/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/cap_cmomf.osdi

ac dec 20 1 100meg
let psrr_db = -db(v(vout)/v(vin))
wrdata /home/ubuntu/GitHub/sg13g2-ldo/.loom/worktrees/issue-25/sim/ldo-cmos5l-pvt-sweep/corners/20260916-112842-c25ff53/psrr_fs_27c_ac.csv psrr_db
.endc
.end
